2194-10-30 06:02:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Acute hypoxia
   24 Hour Events:
 MULTI LUMEN - START [**2194-10-29**] 06:57 PM
 INVASIVE VENTILATION - START [**2194-10-30**] 04:56 AM
    On arrival to the MICU she is screaming her name.  She cannot respond
   to questions of orientation. She had CT scan which showed LLL
   collapse.   Her RR remained high d/t her agitation.  She was thought to
   be in pain and was given morphine, she was sedated with ativan but
   remained agitated and tachypneic.  Even during short periods of
   stillness, her RR was in 30's and she sat'd in the 80's.  She was
   intubated at about 5am and put on CMV/Assist.  A repeat blood gas was
   done and was 7.34/38/130/21/-4.  Her morning Hct was 21 so she was
   transfused with 1 unit PRBC.
   Allergies:
   Amoxicillin
   Sulfonamides
   Penicillins
   Last dose of Antibiotics:
   Cefipime - [**2194-10-30**] 01:00 AM
   Ciprofloxacin - [**2194-10-30**] 01:00 AM
   Vancomycin - [**2194-10-30**] 02:30 AM
   Infusions:
   Heparin Sodium - 1,050 units/hour
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Haloperidol (Haldol) - [**2194-10-29**] 10:30 P
   Lorazepam (Ativan) - [**2194-10-30**] 03:45 A
   Furosemide (Lasix) - [**2194-10-30**] 04:15 A
   Morphine Sulfate - [**2194-10-30**] 04:19 AM
   Summary of HPI for morning rounds:
   87 yo F recently diagnosed pancreatic/colon cancer with liver
   metastases, HTN, who presented on [**2194-10-27**] after an unwitnessed fall
   and c/o R hip pain.  At baseline she is ambulatory but relies on her
   daughter for assistance with her aide for her activities of daily
   living. Per the patient's daughter she has had a slight increase in
   confusion recently.  The details of her fall are unclear.  CT-c-spine
   was without fracture.  CT head was without acute process.  Hip xray
   showed a right intertrochanteric-subtrochanteric fracture of the femur
   extending to the lesser trochanter. She was admitted to the medical
   service for further management.  She underwent open reduction and
   internal fixation of right hip fracture and closed reduction or right
   distal radius fracture. She tolerated the procedure well but had
   agitation post-operatively which was treated with IV haldol.  At
   approximately 2 PM on POD#1 she was noted to have acute hypoxia,
   tachypnea and tachycardia.  She was initially 80% on RA and this
   improved to low 90s on facemask and high 90s on a non-rebreather.
   Repeat CXR showed no acute cardiopulmonary process.  ABG on a
   non-breather was  7.34/34/170.  EKG showed sinus tachycardia but no
   other changes compared to priors.  She was transferred to the MICU for
   further management.
    On arrival to the MICU she is screaming her name.  She could not
   respond to questions of orientation.  She was sedated with precedex and
   a femoral line was placed d/t lack of access.  Her BP went to SBP of
   70's and she was fluid bolused with rapid response. She had CT scan
   which showed LLL collapse.   Her RR remained high d/t her agitation.
   She was thought to be in pain and was given morphine, she was sedated
   with ativan but remained agitated and tachypneic.  Even during short
   periods of stillness, her RR was in 30's and she sat'd in the 80's.
   She was intubated at about 5am and put on CMV/Assist.  A repeat blood
   gas was done.
   Flowsheet Data as of  [**2194-10-30**] 05:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 115 (93 - 126) bpm
   BP: 125/42(61) {104/42(61) - 220/203(207)} mmHg
   RR: 34 (14 - 34) insp/min
   SpO2: 76%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  2,078 mL
                                                                  1,012 mL
   PO:
             TF:
   IVF:
                                                                  2,078 mL
                                                                  1,012 mL
   Blood products:
   Total out:
                                                                    890 mL
                                                                    600 mL
   Urine:
                                                                    890 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,188 mL
                                                                    412 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 320 (320 - 320) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 80%
   PIP: 23 cmH2O
   Plateau: 22 cmH2O
   SpO2: 76%
   ABG: 7.34/38/130/21/-4
   Ve: 6.7 L/min
   PaO2 / FiO2: 163
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: pupils 1-2mm and reactive to light
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: murmur
   Peripheral Vascular: Distal pulses present; no edema
   Respiratory / Chest: Coarse breath sounds bilaterally
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   295 K/uL
   6.8 g/dL
   135 mg/dL
   1.1 mg/dL
   21 mEq/L
   3.3 mEq/L
   21 mg/dL
   113 mEq/L
   141 mEq/L
   21.2
   13.7 K/uL
        [image002.jpg]
                            [**2194-10-29**]  07:03 PM
                            [**2194-10-30**]  02:43 AM
                            [**2194-10-30**]  05:19 AM
   WBC
   13.7
   Hct
   24.5
   21.2
   23
   Plt
   295
   Cr
   1.2
   1.1
   TropT
   0.04
   0.03
   TCO2
   21
   Glucose
   148
   174
   135
   Other labs: PT / PTT / INR:14.2/92.5/1.2, CK / CKMB /
   Troponin-T:405/9/0.03, Lactic Acid:1.6 mmol/L, Ca++:7.4 mg/dL, Mg++:1.4
   mg/dL, PO4:2.6 mg/dL
   Urine culture from [**10-28**]:
   E. COLI
   CT CHEST w/ CONTRAST
   - Suboptimal contrast bolus to evaluate for PE. No central PE; however
   evaluation at segmental and subsegmental level is suboptimal.
   - Left lower lobe consolidation concerning for atelectasis; however
   cannot r/o
   pneumonia, or aspiration.
   - No large mucus plug seen; however if clinical concern endoscopy is
   more
   sensitive.
   - Small hiatal hernia
   Assessment and Plan
   Assessment and Plan: 87 year old female with recently diagnosed
   pancreatic/colon cancer with liver metastases, hypertension,
   osteoarthritis who presented on [**2194-10-27**] with right hip fracture now
   s/p ORIF with acute hypoxia and delerium.
   .
   #Hypoxia, respiratory distress: Patient with hypoxia, tachypnea and
   tachycardia POD #1 from hip fracture.  Differential diagnosis includes
   pulmonary embolism, fat embolism, acute coronary ischemia, aspiration.
   CXR without evidence of edema or new infiltrates.  EKG without evidence
   of ischemia. Most concerning etiology at this time would be pulmonary
   or fat embolism.  CTA Chest suboptimal, but extensive LLL
   atelectasis.   Patient intubated at 5am
   - LENI
s today b/c safest study to eval for PE
   - d/t high pre-test prob and poor study, will cont. on IV heparin
   - treat for PNA: Cefipime/Vanc/Cipro for Gm+, -, and double pseudomonas
   - Influenza test and start Tamiflu at 75mg daily
   - induced sputum and mini-BAL
   - bronchoscopy today to look for mucus plug
   - EKG repeat
   - serial cardiac enzymes
   - echocardiogram given fall, murmur on exam, worsening hypoxia
   - continue ventilation w/ midaz/fentanyl drip.
   - decreased FiO2 to 70%
   -ABG
s whenever change in resp status
   .
   #Delerium:  Differential diagnosis includes infection (known urinary
   tract infection), medications, pain, constipation.  Currently agitated
   and unable to respond to questions.  Currently intubated, so difficult
   to work-up but
   - ciprofloxacin for treatment of urinary tract infection
   - blood cultures pending
   - influenza swab; sputum cultures (induced)
   - frequent reorientation, encourage normal sleep/wake cycle when not on
   vent
   - aggressive bowel regimen
   .
   #Elevated Lactate:  Lactate on arrival was 3.5, now 1.6. Initial
   concern that this may be related to poor tissue perfusion either from
   surgery, infection, pulmonary embolism or cardiac event.
   - follow blood cultures
   - trend lactate q 12h
   - workup of hypoxia as above
   .
   #s/p Fall: Unwitnessed fall.  Differential diagnosis includes syncope
   versus mechanical fall.  Patient with aortic sclerosis and 1+ MR [**First Name (Titles) **]
[**Last Name (Titles) 9386**]ram in [**2187**].
   - repeat echocardiogram
   - monitor on telemetry
   - PT consult when stable
   - orthostatics when stable
   .
   #R hip/wrist fractures: Pt has R Colles fracture and R hip fracture.
   Being followed by ortho.
   - f/u ortho recs
   - pain control with 2-4 mg IV morphine Q4H:PRN when not on vent
   .
   #Anemia: On admission patient's hematocrit was 23.6 with iron studies
   notable for low iron and ferritin.  Likely related to colonic
   malignancy.  She has received three units of PRBCs prior to MICU
   transfer with hematocrit 28.3 post-operatively.   Stool guaiac
   positive, but no gross blood
   - gave 1 unit of blood this morning because at transfusion goal and
   resp distress
   - give blood with goal of Hct of 30
   - will continue pantoprazole 40 mg PO BID
   - monitor hematocrit q 6h
   - transfusion goal < 21
   .
   #Pancreatic/Colon Cancer: Pt was recently diagnosed with adenocarcinoma
   of the colon on biopsy.  She has suspicious liver lesions as well as a
   mass in the head of the pancreas concerning for second primary.  She
   has not been told yet, as her family would like to withhold the
   information until [**Holiday 2419**].
   - consider social work consult
   - will need to consider MRI imaging if no improvement in mental status
   to assess for brain lesions
   - family meeting
   .
   #Hypertension:  Blood pressures currently in 100s systolic. Given
   concern for pulmonary embolism will hold home antihypertensives.
   - holding home metoprolol
   .
   #Depression:
   - continue duloxetine 60 mg daily
   - continue ativan 0.5 mg PO QID:PRN
   .
   #Polymyalgia Rheumatica:  Unclear details.  Per OMR she is on 1 mg
   prednisone daily but per assisted lving she is on prednisone 10 mg QAM
   and 1 mg QPM.  On chronic steroids and now has significant stress.
   - Stress dose steroids 50mg q6 hydrocortisone and fludricortisone
   0.05mg
   FEN: NPO for now, NS @ 100 cc/hr, monitor electrolytes
   Prophylaxis: IV heparin, bowel regimen, PPI
   Access: Femoral CVL, move to IJ when able to
   Code Status:  DNR, ok to intubate
   Communication: [**First Name5 (NamePattern1) 9387**] [**Last Name (NamePattern1) 9388**] [**Telephone/Fax (1) 9389**] (daughter)
   Disposition: pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2194-10-29**] 02:45 PM
   Multi Lumen - [**2194-10-29**] 06:57 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2194-10-30 09:21:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MULTI LUMEN - START [**2194-10-29**] 06:57 PM
 EKG - At [**2194-10-29**] 09:30 PM
 INVASIVE VENTILATION - START [**2194-10-30**] 04:56 AM
 FEVER - 101.8
F - [**2194-10-30**] 06:45 AM
   CVL, intubated about 5a, febrile.  CTA without PE, but with pneumonia.
   Recieved fluid, lasix, and blood.
   Patient unable to provide history: Sedated
   Allergies:
   Amoxicillin
   Unknown;
   Sulfonamides
   Unknown;
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2194-10-30**] 01:00 AM
   Ciprofloxacin - [**2194-10-30**] 01:00 AM
   Vancomycin - [**2194-10-30**] 02:30 AM
   Infusions:
   Heparin Sodium - 1,050 units/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Haloperidol (Haldol) - [**2194-10-29**] 10:30 PM
   Lorazepam (Ativan) - [**2194-10-30**] 03:45 AM
   Furosemide (Lasix) - [**2194-10-30**] 04:15 AM
   Morphine Sulfate - [**2194-10-30**] 04:19 AM
   Pantoprazole (Protonix) - [**2194-10-30**] 07:52 AM
   Other medications:
   pred @ 5, duloxetine, PPI, heparin, olanzapine, cipro, vnaco, midaz,
   fent
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-10-30**] 09:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 38.8
C (101.8
   HR: 112 (93 - 126) bpm
   BP: 82/35(48) {82/35(48) - 220/203(207)} mmHg
   RR: 25 (14 - 34) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
           Total In:
                                                                  2,078 mL
                                                                  2,378 mL
   PO:
           TF:
   IVF:
                                                                  2,078 mL
                                                                  2,126 mL
   Blood products:
   252 mL
   Total out:
                                                                    890 mL
                                                                  1,385 mL
   Urine:
                                                                    890 mL
                                                                  1,385 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,188 mL
                                                                    993 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 320 (320 - 320) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 80%
   PIP: 23 cmH2O
   Plateau: 22 cmH2O
   SpO2: 100%
   ABG: 7.34/38/130/21/-4
   Ve: 6.7 L/min
   PaO2 / FiO2: 163
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Extremities: ecchymosis right htigh marked
   Skin:  Not assessed
   Neurologic: Responds to: Noxious stimuli, Movement: Non -purposeful,
   Tone: Normal
   Labs / Radiology
   6.8 g/dL
   295 K/uL
   135 mg/dL
   1.1 mg/dL
   21 mEq/L
   3.3 mEq/L
   21 mg/dL
   113 mEq/L
   141 mEq/L
   23
   13.7 K/uL
        [image002.jpg]
                            [**2194-10-29**]  07:03 PM
                            [**2194-10-30**]  02:43 AM
                            [**2194-10-30**]  05:19 AM
   WBC
   13.7
   Hct
   24.5
   21.2
   23
   Plt
   295
   Cr
   1.2
   1.1
   TropT
   0.04
   0.03
   TCO2
   21
   Glucose
   148
   174
   135
   Other labs: PT / PTT / INR:14.2/92.5/1.2, CK / CKMB /
   Troponin-T:405/9/0.03, Lactic Acid:1.6 mmol/L, Ca++:7.4 mg/dL, Mg++:1.4
   mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   87-year-old woman with
          Respiratory failure
          Pneumonia
          High pre-test probability for PE with negative but
   suboptimal CTA
          Hip fracture s/p ORIF
          Anemia secondary to acute blood loss (likely into thigh)
          Recently diagnosed metastatic cancer
   We will plan
          Fully culture including viral
          Expand antibiotics to cover HCAP and influenza
          Bronchoscopy to exclude endobronchial lesions, get
   additional micro and cytology specimens
          Transfuse up toward 30 since will continue to
   anticoagulate.  If continues to fall, stop heparin.
          Further evaluate PE:  echo and LENIs.  [**Month (only) 11**] need repeat CTA
   if non-diagnostic, assuming we can get peripheral access
          Stress dose steroids
          Arterial line challenging given problems with skin,
   hematoma, cast.  Will hold off on fem art line for now unless requires
   pressors.  Consider resiting femoral line to neck, though
   anticoagulation makes that higher risk.
          Meet again with family (called after intubation and met with
   yesterday)
   ICU Care
   Nutrition: begin TF
   Glycemic Control:
   Lines:
   22 Gauge - [**2194-10-29**] 02:45 PM
   Multi Lumen - [**2194-10-29**] 06:57 PM
   Prophylaxis:
   DVT: Boots(change IV heparin to prophylactic LMWH)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Family meeting yesterday
   Code status: DNR
   Disposition : ICU
   Total time spent: 50 min
   Patient is critically ill
   ------ Protected Section ------
   Addendum
   Met with family several times throughout the day today.  We reviewed
   Ms. [**Last Name (Titles) 9417**]
s current status, including her development of respiratory
   failure, as well as the fact that her overall prognosis is limited by
   metastatic cancer.  They expressed concern about her
very low pain
   threshold.
  After working through several potential options, they
   believe that Ms. [**Known lastname 9392**] would direct us as follows:
          Trial of aggressive therapy for 2
 3 days (including
   procedures)
          If there are signs of major decompensation and setbacks,
   then move to comfort-focused care.  Specifically:
   o         No resuscitation from pulseless arrest
   o         No pressors for shock
   o         No dialysis for ARF
   All questions answered and issues reviewed.
   40 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 906**], MD
   on:[**2194-10-30**] 19:55 ------

2194-10-31 06:59:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2194-10-30**] 10:09 AM
   cardiac echo
 ULTRASOUND - At [**2194-10-30**] 11:39 AM
   lenies
 BRONCHOSCOPY - At [**2194-10-30**] 06:13 PM
 MULTI LUMEN - START [**2194-10-30**] 07:08 PM
 MULTI LUMEN - STOP [**2194-10-31**] 12:04 AM
 FEVER - 101.8
F - [**2194-10-30**] 08:00 AM
   - New PIV and central line placed --> fem line needs to be pulled
   - LENI's showing: no report in
   - PM lactate 2.0 normal
   - Started TF's
   - Noon labs: CK 408, MB 8, Trop 0.04
   - 6pm labs: Na 147, K 4.0, Mg 2.9, P 3.4, Cr 1.4, CK 357, MB 7, Trop
   0.03
   - Noon Hct 30.5 --> 6pm Hct 30.9
   - Echo showing: [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) 2888**] dilated, hyperdynamic EF 75%, mild AS, mild
   MR, severe pulm art HTN
   - On AC, weaned down to 40%
   - BAL done:
   - D/c'd Zyprexa
   Allergies:
   Amoxicillin
   Unknown;
   Sulfonamides
   Unknown;
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2194-10-30**] 02:30 AM
   Cefipime - [**2194-10-31**] 12:15 AM
   Ciprofloxacin - [**2194-10-31**] 12:26 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2194-10-30**] 07:52 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-10-31**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 36.7
C (98.1
   HR: 83 (83 - 123) bpm
   BP: 102/50(63) {78/35(47) - 144/119(125)} mmHg
   RR: 12 (10 - 32) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
             Total In:
                                                                  3,732 mL
                                                                    412 mL
   PO:
             TF:
                                                                     14 mL
                                                                     39 mL
   IVF:
                                                                  3,018 mL
                                                                    373 mL
   Blood products:
                                                                    700 mL
   Total out:
                                                                  1,790 mL
                                                                    230 mL
   Urine:
                                                                  1,680 mL
                                                                    230 mL
   NG:
                                                                    110 mL
   Stool:
   Drains:
   Balance:
                                                                  1,942 mL
                                                                    182 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 320 (320 - 320) mL
   Vt (Spontaneous): 723 (552 - 723) mL
   PS : 8 cmH2O
   RR (Set): 20
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 73
   PIP: 14 cmH2O
   Plateau: 21 cmH2O
   SpO2: 95%
   ABG: 7.36/37/92.[**Numeric Identifier 641**]/20/-3
   Ve: 8.4 L/min
   PaO2 / FiO2: 232
   Physical Examination
   Patient intubated and shaking. Flushed face. +2 edema of LE, well
   perfused.  Coarse lung sounds on L.  Diastolic and systolic murmur.
   Abdomen soft and non-distended.
   Labs / Radiology
   238 K/uL
   9.2 g/dL
   154 mg/dL
   1.2 mg/dL
   20 mEq/L
   3.9 mEq/L
   27 mg/dL
   116 mEq/L
   144 mEq/L
   27.9 %
   17.4 K/uL
        [image002.jpg]
                            [**2194-10-29**]  07:03 PM
                            [**2194-10-30**]  02:43 AM
                            [**2194-10-30**]  05:19 AM
                            [**2194-10-30**]  11:41 AM
                            [**2194-10-30**]  12:17 PM
                            [**2194-10-30**]  06:09 PM
                            [**2194-10-31**]  04:09 AM
                            [**2194-10-31**]  04:14 AM
   WBC
   13.7
   17.4
   Hct
   24.5
   21.2
   23
   30.5
   30.9
   27.9
   Plt
   295
   238
   Cr
   1.2
   1.1
   1.4
   1.2
   TropT
   0.04
   0.03
   0.04
   0.03
   TCO2
   21
   22
   Glucose
   148
   174
   135
   154
   Other labs: PT / PTT / INR:13.3/32.6/1.1, CK / CKMB /
   Troponin-T:357/7/0.03, Lactic Acid:1.3 mmol/L, Ca++:7.8 mg/dL, Mg++:2.8
   mg/dL, PO4:3.4 mg/dL
   Imaging:
   ECHO [**10-30**]
   The left atrium is mildly dilated. There is mild symmetric left
   ventricular hypertrophy. The left ventricular cavity size is normal.
   Left ventricular systolic function is hyperdynamic (EF>75%). Right
   ventricular chamber size and free wall motion are normal. The aortic
   valve leaflets are moderately thickened. There is mild aortic valve
   stenosis (valve area 1.2-1.9cm2). No aortic regurgitation is seen. The
   mitral valve leaflets are mildly thickened. Mild (1+) mitral
   regurgitation is seen. The tricuspid valve leaflets are mildly
   thickened. There is severe pulmonary artery systolic hypertension.
   There is a trivial/physiologic pericardial effusion.
   CXR [**10-30**]
   IMPRESSION:
   1. Previously seen line at the right lung apex likely represents a
   skinfold.
   If continuous clinical concern, repeat radiograph in few hours can be
   done.
   2. Retrocardiac opacification, with air bronchogram, and opacification
   at the
   left hilum, similar compared to prior radiograph, concerning for
   pneumonia.
   Stable left pleural effusion.
   Microbiology: [**2194-10-29**]  URINE URINE CULTURE-FINAL {ESCHERICHIA COLI}
   All BAL, sputum, blood cultures are NTD
   Assessment and Plan
   Assessment and Plan: 87 year old female with recently diagnosed
   pancreatic/colon cancer with liver metastases, hypertension,
   osteoarthritis who presented on [**2194-10-27**] with right hip fracture now
   s/p ORIF with acute hypoxia and delerium.
   .
   #Hypoxia, respiratory distress: Patient with hypoxia, tachypnea and
   tachycardia POD #1 from hip fracture.  Differential diagnosis includes
   pulmonary embolism, fat embolism, acute coronary ischemia, aspiration.
   CXR without evidence of edema or new infiltrates.  EKG without evidence
   of ischemia. Most concerning etiology at this time would be pulmonary
   or fat embolism.  CTA Chest suboptimal, but extensive LLL
   atelectasis.   Patient intubated at 5am
   - f/u LENI results (done b/c safest study to eval for PE
   - d/c
d IV heparin b/c no RH strain, neg CTA, and alternative dx for
   hypoxia
   - treat for PNA: Cefipime/Vanc/Cipro for Gm+, -, and double pseudomonas
   - Influenza test and started Tamiflu at 75mg daily (results pending
   this am)
   - f/u induced sputum and mini-BAL (NTD)
   - bronchoscopy yesterday- no mucus plug seen
   - EKG repeated-
   - serial cardiac enzymes show persistent troponin elevation- d/t global
   ischemia vs renal dysfunction?
   - echocardiogram done and showed LVH and  hyperdynamic.  No Rheart
   strain
   - continue ventilation w/ midaz/fentanyl drip.
   - changed to pressure support; wean from vent as tolerated
   -ABG
s whenever change in resp status
   .
   #Delerium:  Differential diagnosis includes infection (known urinary
   tract infection), medications, pain, constipation.  Currently agitated
   and unable to respond to questions.  Currently intubated, so difficult
   to work-up until extubated.
   - ciprofloxacin for treatment of urinary tract infection
   - blood cultures pending
   - influenza swab; sputum cultures (induced) all pending
   - frequent reorientation, encourage normal sleep/wake cycle when not on
   vent
   - aggressive bowel regimen
   .
   #Elevated Lactate:  Lactate on arrival was 3.5, now 1.6. Initial
   concern that this may be related to poor tissue perfusion either from
   surgery, infection, pulmonary embolism or cardiac event.
   - follow blood cultures
   - trend lactate q 24h
   - workup of hypoxia as above
   .
   #s/p Fall: Unwitnessed fall.  Differential diagnosis includes syncope
   versus mechanical fall.  Patient with aortic sclerosis and 1+ MR [**First Name (Titles) **]
[**Last Name (Titles) 9386**]ram in [**2187**].
   - repeat echocardiogram
   - monitor on telemetry
   - PT consult when stable
   - orthostatics when stable
   .
   #R hip/wrist fractures: Pt has R Colles fracture and R hip fracture.
   Being followed by ortho.
   - f/u ortho recs
   - pain control with 2-4 mg IV morphine Q4H:PRN when not on vent
   .
   #Anemia: On admission patient's hematocrit was 23.6 with iron studies
   notable for low iron and ferritin.  Likely related to colonic
   malignancy.  She has received three units of PRBCs prior to MICU
   transfer with hematocrit 28.3 post-operatively.   Stool guaiac
   positive, but no gross blood
   - give blood with goal of Hct of 30; will need to give unit of blood
   this morning
   - will continue pantoprazole 40 mg PO BID
   - monitor hematocrit q 8h
   .
   #Pancreatic/Colon Cancer: Pt was recently diagnosed with adenocarcinoma
   of the colon on biopsy.  She has suspicious liver lesions as well as a
   mass in the head of the pancreas concerning for second primary.  She
   has not been told yet, as her family would like to withhold the
   information until [**Holiday 2419**].
   - consider social work consult
   - will need to consider MRI imaging if no improvement in mental status
   to assess for brain lesions
   - family meeting
   .
   #Hypertension:  Blood pressures currently in 100s systolic. Given
   concern for pulmonary embolism will hold home antihypertensives.
   - holding home metoprolol
   .
   #Depression:
   - continue duloxetine 60 mg daily
   - continue ativan 0.5 mg PO QID:PRN
   .
   #Polymyalgia Rheumatica:  Unclear details.  Per OMR she is on 1 mg
   prednisone daily but per assisted lving she is on prednisone 10 mg QAM
   and 1 mg QPM.  On chronic steroids and now has significant stress.
   - Stress dose steroids 50mg q6 hydrocortisone and fludricortisone
   0.05mg
   FEN: tube feeds, monitor electrolytes
   Prophylaxis: IV heparin, bowel regimen, PPI
   Access: IJ and peripheral access
   Code Status:  DNR, ok to intubate
   Communication: [**First Name5 (NamePattern1) 9387**] [**Last Name (NamePattern1) 9388**] [**Telephone/Fax (1) 9389**] (daughter)
   Disposition: pending clinical improvement
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2194-10-31**] 04:16 AM 15 mL/hour
   Glycemic Control:
   Lines:
   22 Gauge - [**2194-10-29**] 02:45 PM
   Multi Lumen - [**2194-10-30**] 07:08 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2194-11-01 06:36:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Respiratory failure and altered mental status
   24 Hour Events:
   - vanco low this morning, gave Q48hr dose this morning.
   - EKG prior to haloperidol showed Qtc 428, then started on 1mg TID
   - Came off of midazolam b/c may be worsening delirium.
   - restarted lovenox
   - Q8hr Hct - stable at 29.9,
   - BAL QNS for influenza DFA, culture pending
   - Dr. [**Last Name (STitle) 906**] met extensively with family, they want to try to wean vent
   until sunday. If she can be extubated, go ahead w/ rehab, but not tell
   mother of cancer and not pursue treatment, as they had decided
   previously.  If she worsens, may consider withdrawing care.  If
   unchanged, will reassess.
   - Palliative involved as well.
   - ortho: short arm cast to R wrist. RLE weight bearing as tolerated.
   No weight bearing w/ RUE.  OOB when able.
   Allergies:
   Amoxicillin
   Unknown;
   Sulfonamides
   Unknown;
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2194-10-31**] 12:15 AM
   Ciprofloxacin - [**2194-10-31**] 12:26 AM
   Vancomycin - [**2194-10-31**] 09:30 AM
   Infusions:
   Fentanyl - 35 mcg/hour
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2194-10-31**] 12:00 PM
   Midazolam (Versed) - [**2194-10-31**] 12:20 PM
   Haloperidol (Haldol) - [**2194-10-31**] 04:20 PM
   Fentanyl - [**2194-11-1**] 05:19 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-11-1**] 06:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.8
C (98.3
   HR: 113 (81 - 123) bpm
   BP: 187/87(113) {96/37(57) - 267/242(248)} mmHg
   RR: 19 (10 - 29) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 61 Inch
    CVP: 8 (3 - 8)mmHg
   Total In:
                                                                  2,234 mL
                                                                    347 mL
   PO:
   TF:
                                                                    459 mL
                                                                    259 mL
   IVF:
                                                                  1,355 mL
                                                                     88 mL
   Blood products:
   Total out:
                                                                    675 mL
                                                                    120 mL
   Urine:
                                                                    675 mL
                                                                    120 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,559 mL
                                                                    227 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 320 (320 - 320) mL
   Vt (Spontaneous): 619 (420 - 619) mL
   PS : 10 cmH2O
   RR (Set): 20
   RR (Spontaneous): 34
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 35
   PIP: 6 cmH2O
   SpO2: 98%
   ABG: 7.43/31/81.[**Numeric Identifier **]//-2
   Ve: 13 L/min
   PaO2 / FiO2: 203
   Physical Examination
   Patient intubated and shaking. Flushed face.  Opening eyes, but without
   blink reflex or comprehension.  Bilateral UE casted. +2 edema of LE,
   well perfused.  Coarse lung sounds on L.  Tachycardic, diastolic and
   systolic murmur.  Abdomen soft and non-distended.
   Labs / Radiology
   238 K/uL
   9.2 g/dL
   154 mg/dL
   1.2 mg/dL
   20 mEq/L
   3.9 mEq/L
   27 mg/dL
   116 mEq/L
   144 mEq/L
   29.9 %
   17.4 K/uL
        [image002.jpg]
                            [**2194-10-30**]  02:43 AM
                            [**2194-10-30**]  05:19 AM
                            [**2194-10-30**]  11:41 AM
                            [**2194-10-30**]  12:17 PM
                            [**2194-10-30**]  06:09 PM
                            [**2194-10-31**]  04:09 AM
                            [**2194-10-31**]  04:14 AM
                            [**2194-10-31**]  08:04 AM
                            [**2194-10-31**]  10:37 AM
                            [**2194-10-31**]  01:04 PM
   WBC
   13.7
   17.4
   Hct
   21.2
   23
   30.5
   30.9
   27.9
   29.9
   Plt
   295
   238
   Cr
   1.1
   1.4
   1.2
   TropT
   0.03
   0.04
   0.03
   TCO2
   21
   22
   20
   21
   Glucose
   174
   135
   154
   Other labs: PT / PTT / INR:13.3/32.6/1.1, CK / CKMB /
   Troponin-T:357/7/0.03, Lactic Acid:1.7 mmol/L, Ca++:7.8 mg/dL, Mg++:2.8
   mg/dL, PO4:3.4 mg/dL
   Imaging: [**10-31**] CXR: interval worsening in left perihilar consolidation,
   nearly total RLL collapse.
   [**11-1**] CXR: stable
   Microbiology: 11/17+18 urine: pan-sensitive e.coli
   11/17,18,19 blood cx pending
   11/18+19 respiratory DFA negative and preliminary culture negative.
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 PNEUMONIA, ASPIRATION
 ANEMIA, OTHER
 DELIRIUM / CONFUSION
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   87 year old female with recently diagnosed pancreatic/colon cancer with
   liver metastases, hypertension, osteoarthritis who presented on
   [**2194-10-27**] with right hip fracture now s/p ORIF with acute hypoxia and
   delirium, intubated. Testing negative for PE.  Plan now is for
   aggressive care until Sunday with goal of extubation
   .
   #Hypoxia, respiratory distress: Patient with hypoxia, tachypnea and
   tachycardia POD #1 from hip fracture.  Found to have hospital-acquired
   pneumonia on CT.  DFA negative for flu, but cultures pending.  No mucus
   plug on bronch.
   - treat for PNA: Cefipime/Vanc.  Can stop cipro as suspicion of
   pseudomonas lower.
   - continue tamiflu until respiratory viral culture negative.
   - f/u induced sputum and mini-BAL (NTD) culture
   - EKG repeated- no acute ischemia
   - continue ventilation w/ fentanyl drip for pain and haldol for
   delirium
   - can give home dose of ativan for severe agitation.
   - keep ventilated for today
   .
   #Delerium:  Differential diagnosis includes infection (known urinary
   tract infection), medications, pain, constipation.  Currently agitated
   and unable to respond to questions.  Currently intubated, so difficult
   to work-up until extubated.
   - cefepime for pan-sensitive for Ecoli
   - blood cultures pending
   - influenza swab; sputum cultures (induced) all pending
   - frequent reorientation, encourage normal sleep/wake cycle when not on
   vent
   - aggressive bowel regimen
   - Haldol as above
   - MRI in the future
   .
   #Goals of Care: Daughters had previously decided that they did not want
   to tell their mother that she has cancer.
   .
   #s/p Fall: Unwitnessed fall.  Differential diagnosis includes syncope
   versus mechanical fall.  Patient with aortic sclerosis and 1+ MR [**First Name (Titles) **]
[**Last Name (Titles) 9386**]ram in [**2187**].
   - monitor on telemetry
   - PT consult when stable
   - orthostatics when stable
   .
   #R hip/wrist fractures: Pt has R Colles fracture and R hip fracture.
   Being followed by ortho.
   - f/u ortho recs
   - pain control with 2-4 mg IV morphine Q4H:PRN when not on vent,
   fentanyl when on vent.
   .
   #Anemia: On admission patient's hematocrit was 23.6 with iron studies
   notable for low iron and ferritin.  Likely related to colonic
   malignancy.  She has received three units of PRBCs prior to MICU
   transfer with hematocrit 28.3 post-operatively.   Stool guaiac
   positive, but no gross blood.
   - daughter would not like patient to receive further blood.
   - will continue pantoprazole 40 mg PO BID
   - monitor hematocrit q12h with goal Hct>30.
   .
   #Pancreatic/Colon Cancer: Pt was recently diagnosed with adenocarcinoma
   of the colon on biopsy.  She has suspicious liver lesions as well as a
   mass in the head of the pancreas concerning for second primary.  She
   has not been told yet, as her family would like to withhold the
   information until [**Holiday 2419**].
   - Palliative care involved.
   - will need to consider MRI imaging if no improvement in mental status
   to assess for brain lesions
   - family meeting
   .
   #Depression:
   - stop duloxetine 60 mg daily.
   - continue ativan 0.5 mg PO QID:PRN for severe agitation.
   .
   #Polymyalgia Rheumatica:  Unclear details.  Per OMR she is on 1 mg
   prednisone daily but per assisted lving she is on prednisone 10 mg QAM
   and 1 mg QPM.  On chronic steroids and now has significant stress.
   - Stress dose steroids 50mg q6 hydrocortisone and fludricortisone
   0.05mg
   FEN: tube feeds, monitor electrolytes
   Prophylaxis:SC heparin TID, bowel regimen, PPI
   Access: IJ and peripheral access
   Code Status:  DNR, no pressors, ok to intubate
   Communication: [**First Name5 (NamePattern1) 9387**] [**Last Name (NamePattern1) 9388**] [**Telephone/Fax (1) 9389**] (daughter)
   Disposition: pending clinical improvement
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   resident for key portions of the services provided.  I agree with her
   note above, including assessment and plan.
   CC: resp failure
   87 y/o woman with newly diagnosed metastatic colon and pancreatic
   cancer now with fall, hip fx.  Post-op PNA and resp failure.
   Key issues:
          sedation/agitation
          vent weaning
          episodic sinus tachycardia, HTN
          CPAP 10/5 with adequate oxygen sat
          WBC 17.4--> 19.6K today
          hct 30
27% with guaiac + stools
          urine pansens E Coli
   Now versed off, fent increased to 75mcg with frequent 50mcg boluses
   CXR ETT low, multifocal opac, unchanged, wider vasc pedicle
   Abx: cipro/cefipime/vanc/tamiflu
   fludrocortisone/hydrocort
   afeb, PSV 0.4, HR 105 140/90.
   Appears calm, comfortable. Course breath sounds. Wakens to voice.
   A/P:
   Resp failure, multifocal pna. Pansens EColi in urine. GNR in sputum.
   Will d/c cipro. Unlikely flu but will await culture result.
   Sedation, agitation: Off versed. Fent dose slightly higher. Haldol
   given, unclear result.
    Na 146 and has been rising. Free water PO 250 qid.
   Further discussion with family tomorrow, will aggressive manage pain,
   which is high risk due to unstabilized hip fx.
   35 minutes critical care time.
   ------ Protected Section Addendum Entered By:[**Name (NI) 101**] [**Last Name (NamePattern1) 65**], MD
   on:[**2194-11-1**] 19:39 ------

2194-11-02 07:43:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Acute mental status change s/p fall
   24 Hour Events:
   - ETT was pulled back 2 cm because low in CXR
   - Patient not tolerating lowering of sedation.  Was agitated and
   hypertensive all day despite labetolol, amlodipine.  At shift change,
   increased fentanyl because believe this to be d/t pain and gave dose of
   Zyprexa SL and patient seemed to respond well to this.  BP of 100-120's
   after that rather than 180-200.
   - [**Doctor Last Name **] had meeting with family to update them on patient
   - Cipro was d/c because did not believe it was adding anything to
   therapy and could be contributory to delirium
   - WBC climbing again, sent a diff for the morning.  No associated
   fever.
   Allergies:
   Amoxicillin
   Unknown;
   Sulfonamides
   Unknown;
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2194-10-31**] 12:26 AM
   Vancomycin - [**2194-10-31**] 09:30 AM
   Tamiflu - [**2194-11-1**] 08:14 AM
   Cefipime - [**2194-11-2**] 12:24 AM
   Infusions:
   Fentanyl - 150 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2194-11-1**] 08:14 AM
   Midazolam (Versed) - [**2194-11-1**] 08:14 AM
   Lorazepam (Ativan) - [**2194-11-1**] 11:19 AM
   Haloperidol (Haldol) - [**2194-11-1**] 02:45 PM
   Labetalol - [**2194-11-1**] 04:30 PM
   Fentanyl - [**2194-11-2**] 04:23 AM
   Other medications:
   Flowsheet Data as of  [**2194-11-2**] 07:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.6
C (97.8
   HR: 99 (74 - 114) bpm
   BP: 161/90(103) {92/44(56) - 213/163(140)} mmHg
   RR: 17 (8 - 34) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
    CVP: 6 (6 - 7)mmHg
   Total In:
                                                                  2,386 mL
                                                                    954 mL
   PO:
   TF:
                                                                  1,078 mL
                                                                    344 mL
   IVF:
                                                                    463 mL
                                                                    240 mL
   Blood products:
   Total out:
                                                                  1,225 mL
                                                                    250 mL
   Urine:
                                                                  1,225 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,161 mL
                                                                    704 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 707 (450 - 707) mL
   PS : 5 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 60
   PIP: 14 cmH2O
   SpO2: 99%
   ABG: ///26/
   Ve: 11.8 L/min
   Physical Examination
   Gen: intubated; answering questions today about self
   Eyes: PERRL
   Heart: NRRR; systolic and possible diastolic murmur present
   Abdomen: Distended, normal BS
   Ext: 2+ edema, DP present
   Labs / Radiology
   242 K/uL
   10.3 g/dL
   142 mg/dL
   0.9 mg/dL
   26 mEq/L
   4.1 mEq/L
   35 mg/dL
   112 mEq/L
   146 mEq/L
   33.0 %
   23.8 K/uL
        [image002.jpg]
                            [**2194-10-30**]  11:41 AM
                            [**2194-10-30**]  12:17 PM
                            [**2194-10-30**]  06:09 PM
                            [**2194-10-31**]  04:09 AM
                            [**2194-10-31**]  04:14 AM
                            [**2194-10-31**]  08:04 AM
                            [**2194-10-31**]  10:37 AM
                            [**2194-10-31**]  01:04 PM
                            [**2194-11-1**]  05:07 AM
                            [**2194-11-2**]  04:07 AM
   WBC
   17.4
   19.6
   23.8
   Hct
   30.5
   30.9
   27.9
   29.9
   27.4
   33.0
   Plt
   238
   244
   242
   Cr
   1.4
   1.2
   1.1
   0.9
   TropT
   0.04
   0.03
   TCO2
   22
   20
   21
   Glucose
   154
   170
   142
   Other labs: PT / PTT / INR:13.3/32.6/1.1, CK / CKMB /
   Troponin-T:357/7/0.03, Differential-Neuts:94.1 %, Band:0.0 %, Lymph:3.3
   %, Mono:2.5 %, Eos:0.1 %, Lactic Acid:1.7 mmol/L, Ca++:8.3 mg/dL,
   Mg++:2.7 mg/dL, PO4:1.8 mg/dL
   Imaging: The orogastric tube is in satisfactory position. There is a
   right central
   venous catheter terminating at the atriocaval junction.
   [**2194-11-1**] CXR
   There are worsening bibasilar opacifications. There is worsening left
   lower
   lobe collapse.
   IMPRESSION: Endotracheal tube terminates 1.8 cm from the carina and
   should be
   pulled back. This was communicated to the covering physician.
   [**Name Initial (NameIs) 5908**]: Urine Culture
   E.Coli
   Assessment and Plan
   87 year old female with recently diagnosed pancreatic/colon cancer with
   liver metastases, hypertension, osteoarthritis who presented on
   [**2194-10-27**] with right hip fracture now s/p ORIF with acute hypoxia and
   delirium, intubated. Testing negative for PE.  Plan now is for
   aggressive care until Sunday with goal of extubation
   .
   #Hypoxia, respiratory distress: Patient with hypoxia, tachypnea and
   tachycardia POD #1 from hip fracture.  Found to have hospital-acquired
   pneumonia on CT.  DFA negative for flu, but cultures pending.  No mucus
   plug on bronch.
   - continue to treat for PNA: Cefipime/Vanc; day [**3-18**]
   - change vanc to q 24h rather than q48 h b/c of improving renal
   function
   - stop tamiflu and d/c precautions for influenza
   - f/u induced sputum and mini-BAL (NTD) culture
   - continue ventilation w/ fentanyl drip for pain and haldo/zyprexal for
   delirium
   - attempt to extubate today; family meeting about re-intubation if
   fails extubation
   .
   #Delerium:  Differential diagnosis includes infection (known urinary
   tract infection), medications, pain, constipation.  Currently agitated
   and unable to respond to questions.  Currently intubated, so difficult
   to work-up until extubated.
   - cefepime for pan-sensitive for Ecoli
   - blood cultures pending
   - frequent reorientation, encourage normal sleep/wake cycle when not on
   vent
   - aggressive bowel regimen
   - Haldol changed to Zyprexa 10mg [**Hospital1 **] as worked much better for patient
   agitation
   - MRI in the future possibly
   .
   #Goals of Care: Daughters had previously decided that they did not want
   to tell their mother that she has cancer.
   .
   #s/p Fall: Unwitnessed fall.  Differential diagnosis includes syncope
   versus mechanical fall.  Patient with aortic sclerosis and 1+ MR [**First Name (Titles) **]
[**Last Name (Titles) 9386**]ram in [**2187**].
   - monitor on telemetry
   - PT consult when stable
   - orthostatics when stable
   .
   #R hip/wrist fractures: Pt has R Colles fracture and R hip fracture.
   Being followed by ortho.
   - f/u ortho recs
   - pain control with 2-4 mg IV morphine Q4H:PRN when not on vent,
   fentanyl when on vent.
   .
   #Anemia: On admission patient's hematocrit was 23.6 with iron studies
   notable for low iron and ferritin.  Likely related to colonic
   malignancy.  She has received three units of PRBCs prior to MICU
   transfer with hematocrit 28.3 post-operatively.   Stool guaiac
   positive, but no gross blood.
   - daughter would not like patient to receive further blood.
   - will continue pantoprazole 40 mg PO BID
   - monitor hematocrit q12h with goal Hct>25.
   .
   #Pancreatic/Colon Cancer: Pt was recently diagnosed with adenocarcinoma
   of the colon on biopsy.  She has suspicious liver lesions as well as a
   mass in the head of the pancreas concerning for second primary.  She
   has not been told yet, as her family would like to withhold the
   information until [**Holiday 2419**].
   - Palliative care involved.
   - will need to consider MRI imaging if no improvement in mental status
   to assess for brain lesions
   - family meeting
   .
   #Depression:
   - stop duloxetine 60 mg daily b/c cannot be crushed
   - started Zyprexa and tolerated well.
   .
   #Polymyalgia Rheumatica:  Unclear details.  Per OMR she is on 1 mg
   prednisone daily but per assisted lving she is on prednisone 10 mg QAM
   and 1 mg QPM.  On chronic steroids and now has significant stress.
   - Stress dose steroids 50mg q6 hydrocortisone and fludricortisone
   0.05mg changed to 25mg hydrocortisone q6hours, and continue same dose
   fludricortisone.  Wean further tomorrow.
   FEN: tube feeds, monitor electrolytes
   Prophylaxis:SC heparin TID, bowel regimen, PPI
   Access: IJ and peripheral access
   Code Status:  DNR, no pressors, ok to intubate
   Communication: [**First Name5 (NamePattern1) 9387**] [**Last Name (NamePattern1) 9388**] [**Telephone/Fax (1) 9389**] (daughter)
   Disposition: pending clinical improvement

2194-11-02 11:55:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   87 y/o woman with newly diagnosed metastatic colon and pancreatic
   cancer admitted after fall, hip fx.  Post-op PNA and resp failure.
   24 Hour Events:
   Unable to decrease sedation yesterday due to persistent agitation.
   Increased fentanyl to 150mcg/h and added zyprexa and finally calm.
   This morning for the first time pt was calm and responding to
   questions.
   Denied pain.
   Allergies:
   Amoxicillin
   Unknown;
   Sulfonamides
   Unknown;
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2194-10-31**] 12:26 AM
   Tamiflu - [**2194-11-1**] 08:14 AM
   Cefipime - [**2194-11-2**] 12:24 AM
   Vancomycin - [**2194-11-2**] 08:30 AM
   Infusions:
   Fentanyl - 125 mcg/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2194-11-1**] 11:19 AM
   Haloperidol (Haldol) - [**2194-11-1**] 02:45 PM
   Labetalol - [**2194-11-1**] 04:30 PM
   Fentanyl - [**2194-11-2**] 08:00 AM
   Pantoprazole (Protonix) - [**2194-11-2**] 08:30 AM
   Other medications:
   haldol changed to zyprexa
   Flowsheet Data as of  [**2194-11-2**] 11:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37.1
C (98.7
   HR: 97 (74 - 112) bpm
   BP: 135/56(77) {92/44(56) - 213/163(140)} mmHg
   RR: 10 (7 - 20) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
   CVP: 6 (6 - 7)mmHg
   Total In:
                                                                  2,386 mL
                                                                  1,706 mL
   PO:
   TF:
                                                                  1,078 mL
                                                                    378 mL
   IVF:
                                                                    463 mL
                                                                    538 mL
   Blood products:
   Total out:
                                                                  1,225 mL
                                                                    502 mL
   Urine:
                                                                  1,225 mL
                                                                    502 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,161 mL
                                                                  1,204 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 550 (450 - 707) mL
   PS : 5 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 60
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: ///26/
   Ve: 10.2 L/min
   Physical Examination
   General Appearance: Thin, Anxious, appears agitated again now
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : ), good air movement
   Abdominal: Soft, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Warm, ecchymoses
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, responds to
   questions with head movements
   Labs / Radiology
   10.3 g/dL
   242 K/uL
   142 mg/dL
   0.9 mg/dL
   26 mEq/L
   4.1 mEq/L
   35 mg/dL
   112 mEq/L
   146 mEq/L
   33.0 %
   23.8 K/uL
        [image002.jpg]
                            [**2194-10-30**]  11:41 AM
                            [**2194-10-30**]  12:17 PM
                            [**2194-10-30**]  06:09 PM
                            [**2194-10-31**]  04:09 AM
                            [**2194-10-31**]  04:14 AM
                            [**2194-10-31**]  08:04 AM
                            [**2194-10-31**]  10:37 AM
                            [**2194-10-31**]  01:04 PM
                            [**2194-11-1**]  05:07 AM
                            [**2194-11-2**]  04:07 AM
   WBC
   17.4
   19.6
   23.8
   Hct
   30.5
   30.9
   27.9
   29.9
   27.4
   33.0
   Plt
   238
   244
   242
   Cr
   1.4
   1.2
   1.1
   0.9
   TropT
   0.04
   0.03
   TCO2
   22
   20
   21
   Glucose
   154
   170
   142
   Other labs: PT / PTT / INR:13.3/32.6/1.1, CK / CKMB /
   Troponin-T:357/7/0.03, Differential-Neuts:94.1 %, Band:0.0 %, Lymph:3.3
   %, Mono:2.5 %, Eos:0.1 %, Lactic Acid:1.7 mmol/L, Ca++:8.3 mg/dL,
   Mg++:2.7 mg/dL, PO4:1.8 mg/dL
   Fluid analysis / Other labs: wbc rising, 94% pmn
   lactate 1.7
   Microbiology: urine EColi is only + cx throughout ICU course
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 HYPERTENSION, BENIGN
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 PNEUMONIA, ASPIRATION
 ANEMIA, OTHER
 DELIRIUM / CONFUSION
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   Resp failure, vent dependence.
   Low vent settings. Barrier to extubation is agitation (which was reason
   for intubation).
   PNA. DFA for influenza negative. D4 of vanc/cefipime. D/C cipro
   yesterday. D/C tamiflu now with DFA and cx neg.
   Delerium, agitation.
   Stress dose steroids due to chronic steroids for PMR.
   Metastatic colon and pancreatic cancer with mets to liver.
   Hip fracture, right distal radius fx. ORIF hip (metal repair). Can
   weight-bear on hip and would start PT if not for other issues. Surgery
   was [**10-28**].
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2194-10-30**] 07:08 PM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Family meeting held  Comments: Discussed with pt's son
   at bedside
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2194-11-03 07:06:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Agitation/hip fracture
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2194-11-2**] 01:30 PM
   - RSBI 60 this am.
   - D/c'd Haldol and Duloxetine --> need to increase Zyprexa --> LOOK AT
   MAX DOSE --> 30 mg/day max dose
   - Wean Hydrocort to 25 IV q6hrs and leave Fludrocort as is
   - D/c Tamiflu, increase Vanc from 1g q48 --> q24
   - Successfully extubated.
   - Made DNR/DNI
   - Very agitated in the pm, with HTN and tachycardia --> got zyprexa,
   total 6mg Morphine, 1mg Ativan, and increased IV Metoprolol to 10mg
   q6hrs
   - giving D5W at 125 cc/hr for 500 cc given hypernatremia
   Allergies:
   Amoxicillin
   Unknown;
   Sulfonamides
   Unknown;
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Tamiflu - [**2194-11-1**] 08:14 AM
   Vancomycin - [**2194-11-2**] 08:30 AM
   Cefipime - [**2194-11-3**] 12:00 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2194-11-2**] 08:00 AM
   Pantoprazole (Protonix) - [**2194-11-2**] 08:30 AM
   Lorazepam (Ativan) - [**2194-11-2**] 10:00 PM
   Enoxaparin (Lovenox) - [**2194-11-3**] 12:00 AM
   Morphine Sulfate - [**2194-11-3**] 04:11 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-11-3**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.2
C (98.9
   HR: 96 (86 - 133) bpm
   BP: 165/83(102) {133/56(77) - 204/139(150)} mmHg
   RR: 19 (7 - 28) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
    CVP: 6 (6 - 6)mmHg
   Total In:
                                                                  1,873 mL
                                                                    391 mL
   PO:
   TF:
                                                                    378 mL
   IVF:
                                                                    705 mL
                                                                    391 mL
   Blood products:
   Total out:
                                                                  1,572 mL
                                                                    480 mL
   Urine:
                                                                  1,572 mL
                                                                    480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    301 mL
                                                                    -89 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 550 (550 - 550) mL
   PS : 5 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 11 cmH2O
   SpO2: 97%
   ABG: ///28/
   Ve: 10.2 L/min
   Physical Examination
   Gen: intubated; A&O x1, able to open eyes and denies pain.  Cannot take
   pills
   Eyes: PERRL, pupils anicteric.
   Heart: NRRR; systolic and possible diastolic murmur present
   Resp: Coarse ins&resp ronchi.
   Abdomen: Distended, normal BS
   Ext: 2+ edema, DP present
   Labs / Radiology
   264 K/uL
   11.1 g/dL
   123 mg/dL
   0.8 mg/dL
   28 mEq/L
   3.2 mEq/L
   30 mg/dL
   107 mEq/L
   147 mEq/L
   33.3 %
   26.6 K/uL
        [image002.jpg]
                            [**2194-10-30**]  06:09 PM
                            [**2194-10-31**]  04:09 AM
                            [**2194-10-31**]  04:14 AM
                            [**2194-10-31**]  08:04 AM
                            [**2194-10-31**]  10:37 AM
                            [**2194-10-31**]  01:04 PM
                            [**2194-11-1**]  05:07 AM
                            [**2194-11-2**]  04:07 AM
                            [**2194-11-2**]  06:42 PM
                            [**2194-11-3**]  03:22 AM
   WBC
   17.4
   19.6
   23.8
   26.6
   Hct
   30.9
   27.9
   29.9
   27.4
   33.0
   33.3
   Plt
   238
   244
   242
   264
   Cr
   1.4
   1.2
   1.1
   0.9
   0.9
   0.8
   TropT
   0.03
   TCO2
   22
   20
   21
   Glucose
   154
   170
   142
   142
   123
   Other labs: PT / PTT / INR:13.3/32.6/1.1, CK / CKMB /
   Troponin-T:357/7/0.03, Differential-Neuts:90.0 %, Band:0.0 %, Lymph:4.2
   %, Mono:5.3 %, Eos:0.2 %, Lactic Acid:1.7 mmol/L, Ca++:8.4 mg/dL,
   Mg++:2.3 mg/dL, PO4:2.2 mg/dL
   Imaging: [**11-2**] CXR: markedly improved
   [**11-3**] CXR: continued improvement, ? retrocradiac.
   Microbiology: UCx: Pansensitive Ecoli
   [**10-30**] BAL: cx negative
   [**10-30**] blood cx: negative
   Assessment and Plan
 INEFFECTIVE COPING
 ELECTROLYTE & FLUID DISORDER, OTHER
 HYPERTENSION, BENIGN
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 PNEUMONIA, ASPIRATION
 ANEMIA, OTHER
 DELIRIUM / CONFUSION
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   87 year old female with recently diagnosed pancreatic/colon cancer with
   liver metastases, hypertension, osteoarthritis who presented on
   [**2194-10-27**] with right hip fracture now s/p ORIF with acute hypoxia and
   delirium, intubated. Testing negative for PE.  Now extubated, plan is
   to return to home/hospice for palliative care of metastatic pancreatic
   ca.
   .
   #Hypoxia, respiratory distress: Patient with hypoxia, tachypnea and
   tachycardia POD #1 from hip fracture.  Found to have hospital-acquired
   pneumonia on CT.  DFA negative for flu, but cultures pending.  No mucus
   plug on bronch.
   - continue to treat for PNA: Cefipime/Vanc; day [**4-17**]
   - change vanc to q 24h rather than q48 h b/c of improving renal
   function
   - stop tamiflu and d/c precautions for influenza
   - f/u induced sputum and mini-BAL (NTD) culture
   - continue ventilation w/ fentanyl drip for pain and haldo/zyprexal for
   delirium
   - attempt to extubate today; family meeting about re-intubation if
   fails extubation
   .
   # Leukocytosis: On stress-dose steroids, but leukocytosis started
   afterwards.
   - wean steroids back to home dose of 5mg prednisone daily.
   - pan-culture today.
   .
   #Delerium/agitation:  On Zyprexa 10mg TID w/ improved agitation but
   persistently altered mental status.
   Differential diagnosis includes infection (known urinary tract
   infection), medications, pain, constipation.  Currently agitated and
   unable to respond to questions.  Currently intubated, so difficult to
   work-up until extubated.
   - cefepime for pan-sensitive for Ecoli
   - blood cultures pending
   - frequent reorientation, encourage normal sleep/wake cycle when not on
   vent
   - aggressive bowel regimen
   - Haldol changed to Zyprexa 10mg [**Hospital1 **] as worked much better for patient
   agitation
   - MRI in the future possibly
   .
   #Goals of Care: Daughters had previously decided that they did not want
   to tell their mother that she has cancer.
   .
   #s/p Fall: Unwitnessed fall.  Differential diagnosis includes syncope
   versus mechanical fall.  Patient with aortic sclerosis and 1+ MR [**First Name (Titles) **]
[**Last Name (Titles) 9386**]ram in [**2187**].
   - monitor on telemetry
   - PT consult when stable
   - orthostatics when stable
   .
   #R hip/wrist fractures: Pt has R Colles fracture and R hip fracture.
   Being followed by ortho.
   - f/u ortho recs
   - pain control with 2-4 mg IV morphine Q4H:PRN when not on vent,
   fentanyl when on vent.
   .
   #Anemia: On admission patient's hematocrit was 23.6 with iron studies
   notable for low iron and ferritin.  Likely related to colonic
   malignancy.  She has received three units of PRBCs prior to MICU
   transfer with hematocrit 28.3 post-operatively.   Stool guaiac
   positive, but no gross blood.
   - daughter would not like patient to receive further blood.
   - will continue pantoprazole 40 mg PO BID
   - monitor hematocrit q12h with goal Hct>25.
   .
   #Pancreatic/Colon Cancer: Pt was recently diagnosed with adenocarcinoma
   of the colon on biopsy.  She has suspicious liver lesions as well as a
   mass in the head of the pancreas concerning for second primary.  She
   has not been told yet, as her family would like to withhold the
   information until [**Holiday 2419**].
   - Palliative care involved.
   - will need to consider MRI imaging if no improvement in mental status
   to assess for brain lesions
   - family meeting
   .
   #Depression:
   - stop duloxetine 60 mg daily b/c cannot be crushed
   - started Zyprexa and tolerated well.
   .
   #Polymyalgia Rheumatica:  Unclear details.  Per OMR she is on 1 mg
   prednisone daily but per assisted lving she is on prednisone 10 mg QAM
   and 1 mg QPM.  On chronic steroids and now has significant stress.
   - Stress dose steroids 50mg q6 hydrocortisone and fludricortisone
   0.05mg changed to 25mg hydrocortisone q6hours, and continue same dose
   fludricortisone.  Wean further tomorrow.
   FEN: tube feeds, monitor electrolytes
   Prophylaxis:SC heparin TID, bowel regimen, PPI
   Access: IJ and peripheral access
   Code Status:  DNR/DNI, no pressors
   Communication: [**First Name5 (NamePattern1) 9387**] [**Last Name (NamePattern1) 9388**] [**Telephone/Fax (1) 9389**] (daughter)
   Disposition: pending clinical improvement

2194-11-03 13:17:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   87 yo women with newly dx'ed metastatic pancreatic CA, s/p hip fracture
   with repair.  Required intubated periop and extubated yesterday.  Made
   DNR/DNI by family.
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2194-11-2**] 01:30 PM
   Allergies:
   Amoxicillin
   Unknown;
   Sulfonamides
   Unknown;
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Tamiflu - [**2194-11-1**] 08:14 AM
   Cefipime - [**2194-11-3**] 12:00 AM
   Vancomycin - [**2194-11-3**] 08:31 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2194-11-2**] 10:00 PM
   Enoxaparin (Lovenox) - [**2194-11-3**] 12:00 AM
   Morphine Sulfate - [**2194-11-3**] 04:11 AM
   Pantoprazole (Protonix) - [**2194-11-3**] 08:32 AM
   Metoprolol - [**2194-11-3**] 11:54 AM
   Other medications:
   hydrocort/fludricort
   lopressor
   ativan
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Heme / Lymph: No(t) Anemia
   Psychiatric / Sleep: No(t) Agitated
   Flowsheet Data as of  [**2194-11-3**] 01:17 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.8
C (100
   HR: 106 (83 - 133) bpm
   BP: 180/78(102) {137/63(86) - 204/139(150)} mmHg
   RR: 18 (16 - 28) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 61 Inch
             Total In:
                                                                  1,873 mL
                                                                    940 mL
   PO:
             TF:
                                                                    378 mL
   IVF:
                                                                    705 mL
                                                                    940 mL
   Blood products:
   Total out:
                                                                  1,572 mL
                                                                    940 mL
   Urine:
                                                                  1,572 mL
                                                                    940 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    301 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///28/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, Oriented (to): to self only, Movement: Not
   assessed, Tone: Not assessed, opens eyes to voice, answers some
   questions
   Labs / Radiology
   11.1 g/dL
   264 K/uL
   123 mg/dL
   0.8 mg/dL
   28 mEq/L
   3.2 mEq/L
   30 mg/dL
   107 mEq/L
   147 mEq/L
   33.3 %
   26.6 K/uL
        [image002.jpg]
                            [**2194-10-30**]  06:09 PM
                            [**2194-10-31**]  04:09 AM
                            [**2194-10-31**]  04:14 AM
                            [**2194-10-31**]  08:04 AM
                            [**2194-10-31**]  10:37 AM
                            [**2194-10-31**]  01:04 PM
                            [**2194-11-1**]  05:07 AM
                            [**2194-11-2**]  04:07 AM
                            [**2194-11-2**]  06:42 PM
                            [**2194-11-3**]  03:22 AM
   WBC
   17.4
   19.6
   23.8
   26.6
   Hct
   30.9
   27.9
   29.9
   27.4
   33.0
   33.3
   Plt
   238
   244
   242
   264
   Cr
   1.4
   1.2
   1.1
   0.9
   0.9
   0.8
   TropT
   0.03
   TCO2
   22
   20
   21
   Glucose
   154
   170
   142
   142
   123
   Other labs: PT / PTT / INR:13.3/32.6/1.1, CK / CKMB /
   Troponin-T:357/7/0.03, Differential-Neuts:90.0 %, Band:0.0 %, Lymph:4.2
   %, Mono:5.3 %, Eos:0.2 %, Lactic Acid:1.7 mmol/L, Ca++:8.4 mg/dL,
   Mg++:2.3 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
 INEFFECTIVE COPING
 ELECTROLYTE & FLUID DISORDER, OTHER
 HYPERTENSION, BENIGN
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 PNEUMONIA, ASPIRATION
 ANEMIA, OTHER
 DELIRIUM / CONFUSION
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   Respiratory faillure improved.
   Hypernatremia: replete water with D5W
   Decreased MS Today:  will try and decrease zyprexa
   stress steroids:  wean to IV dose.
   vanco/cefepime: day [**5-18**] for PNA and UTI.
   leukocytosis:  check C. diff.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2194-10-30**] 07:08 PM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :Transfer to floor
   Total time spent: 35 minutes